US04105690
Chloracetamidoglycolic acid
740 g of an aqueous solution with 50% of glyoxylic acid (5 moles) are mixed with 514 g of chloracetamide (5.5 moles). The mixture is heated to 50° C, then the greater part of the water is removed under vacuum, 1200 g of acetic acid are added and it is cooled on ice. After filtration and drying, 475 g of product are obtained. The product concentrated under vacuum gives 112 g of a second crop, namely a total yield of 69%.

reactant | glyoxylic acid | 5 moles | C(C=O)(=O)O | C2H2O3
reactant | chloracetamide | 5.5 moles, 514 g | ClCC(=O)N | C2H4ClNO
product | Chloracetamidoglycolic acid | 475 g, yield of 69% | ClCC(=O)NC(C(=O)O)O | C4H6ClNO4
